US20010000513A1
In a manner similar to Example 4, Step (c), 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid (1.052 g, 0.003922 mol) was allowed to react with hydroxylamine hydrochloride (0.3245 g, 0.00467 mol) in the presence of sodium carbonate (0.498 g, 0.00470 mol) in absolute ethanol to give 1.006 g of 4-hydroxyimino-4-(4′-methyl-biphenyl-4-yl)-butyric acid as a white solid; mp 176.5-177.5° C.

reactant | 4-(4′-methyl-biphenyl-4-yl)-4-oxo-butyric acid | 0.003922 mol, 1.052 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C17H16O3
reactant | hydroxylamine hydrochloride | 0.00467 mol, 0.3245 g | Cl.NO
reactant | sodium carbonate | 0.00470 mol, 0.498 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-hydroxyimino-4-(4′-methyl-biphenyl-4-yl)-butyric acid | 1.006 g | ON=C(CCC(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C17H17NO3
